US05244908
Synthesis of 5-[1-(trifluoromethanesulfonyl)4-piperidylthio]imidazo[1,2-a]pyridine (Compound 165)
To a solution of 5-(4-piperidylthio)imidazo[1,2-a]pyridine dihydrochloride (919 mg, 3 mmoles) and triethylamine (1.39 ml, 9.89 mmoles) in methylene chloride (40 ml) was added trifluoromethanesulfonic anhydride (0.61 ml, 3.63 mmoles) under ice-cooling with stirring and the mixture was stirred at room temperature for 1 hour. The residue was washed with saturated saline and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate/n-hexane=1:1) to obtain 0.66 g of the desired product (60.2%, colorless solid).

reactant | 5-(4-piperidylthio)imidazo[1,2-a]pyridine dihydrochloride | 3 mmoles, 919 mg | Cl.Cl.N1CCC(CC1)SC1=CC=CC=2N1C=CN2
reactant | triethylamine | 9.89 mmoles, 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 3.63 mmoles, 0.61 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 5-[1-(trifluoromethanesulfonyl)4-piperidylthio]imidazo[1,2-a]pyridine | 0.66 g, 60.2% | FC(S(=O)(=O)N1CCC(CC1)SC1=CC=CC=2N1C=CN2)(F)F | C13H14F3N3O2S2
